US07435828B2
2-[(Z)-n-butylimino]-3-(2,3-dimethylphenyl)-thiazolidin-4-one is prepared following Method B and starting from 2,3-dimethylaniline, chloroacetyl chloride and n-butylisothiocyanate. LC-MS: tR=0.80 min, [M+1]+=277, 1H NMR (CDCl3): δ 7.23-7.16 (m, 2H), 6.99-6.94 (m, 1H), 4.01 (s, 2H), 3.38-3.23 (m, 2H), 2.33 (s, 3H), 2.05 (s, 3H), 1.59-1.49 (m, 2H), 1.38-1.25 (m, 2H), 0.91 (t, J=7.0 Hz, 3H).

reactant | 2,3-dimethylaniline | CC1=C(N)C=CC=C1C | C8H11N
reactant | chloroacetyl chloride | ClCC(=O)Cl | C2H2Cl2O
reactant | n-butylisothiocyanate | C(CCC)N=C=S | C5H9NS
product | 2-[(Z)-n-butylimino]-3-(2,3-dimethylphenyl)-thiazolidin-4-one | C(CCC)\N=C\1/SCC(N1C1=C(C(=CC=C1)C)C)=O | C15H20N2OS
